US06569851B1
To a Parr bottle containing 3-benzoylbenzoic acid (0.044 moles) (Aldrich) in 150 mL of ethyl acetate and 4.5 mL of concentrated H2SO4 was added 10 grams of 5% Pd/C. The mixture was hydrogenated on a Parr apparatus under hydrogen (45 psi) overnight. The reaction mixture was then filtered through Hyflo, washing with ethyl acetate. The filtrate was dried over Na2SO4, filtered and concentrated to give an oil. The oil was slurried in hexane and the resulting white solid was collected by filtration to afford 3-benzylbenzoic acid, which was used without further purification.

reactant | 3-benzoylbenzoic acid | 0.044 moles | C(C1=CC=CC=C1)(=O)C=1C=C(C(=O)O)C=CC1 | C14H10O3
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | H2SO4 | 4.5 mL | OS(=O)(=O)O | H2O4S
solvent | hexane | CCCCCC | C6H14
catalyst | Pd/C | 10 grams | [Pd] | Pd
product | 3-benzylbenzoic acid | C(C1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C14H12O2
